US06372735B1
Ethyl 5-(4,5-dimethoxy-2-nitrobenzoyl)-2-(1-isopropoxycarbonyloxy-2-methylpropyl)-2H-1,2,3-triazole-4-carboxylate
70% nitric acid (1 ml) was added to ethyl 5-(3,4-dimethoxybenzoyl)-2-(1-isopropoxycarbonyloxy-2-methylpropyl)-2H-1,2,3-triazole-4-carboxylate (86 mg, 0.19 mmol) as Intermediate 8 under ice cooling. The mixture was stirred at that temperature for 30 min. The reaction solution was poured into ice and then extracted with ethyl acetate. The organic layer was washed with a saturated aqueous sodium hydrogencarbonate solution and saturated brine solution in that order and dried over anhydrous magnesium sulfate. The solvent was evaporated to give the title compound as a single compound (49 mg, 52%). The Rf value of thin-layer chromatography on silica gel and 1H-NMR spectrum were the same as those of the title compound of Example 20 (a).

reactant | nitric acid | 1 ml | [N+](=O)(O)[O-] | HNO3
reactant | ethyl 5-(3,4-dimethoxybenzoyl)-2-(1-isopropoxycarbonyloxy-2-methylpropyl)-2H-1,2,3-triazole-4-carboxylate | 0.19 mmol, 86 mg | COC=1C=C(C(=O)C=2C(=NN(N2)C(C(C)C)OC(=O)OC(C)C)C(=O)OCC)C=CC1OC | C22H29N3O8
product | Ethyl 5-(4,5-dimethoxy-2-nitrobenzoyl)-2-(1-isopropoxycarbonyloxy-2-methylpropyl)-2H-1,2,3-triazole-4-carboxylate | COC1=CC(=C(C(=O)C=2C(=NN(N2)C(C(C)C)OC(=O)OC(C)C)C(=O)OCC)C=C1OC)[N+](=O)[O-] | C22H28N4O10
